US07129367B2
Preparation of 4-methoxybiphenyl
Under a nitrogen atmosphere, 4-trifluoromethane-sulfonyloxyanisole (0.49 g, 1.9 mmol), phenylboronic acid (0.29 g, 2.4 mmol), potassium fluoride (0.24 g, 4.2 mmol), (π-allyl)palladium chloride (3.6 mg, 0.01 mmol), 2,2-diphenyl-1-(di-tert-butylphosphino)-1-methylcyclopropane (14.0 mg, 0.04 mmol) obtained in Example 4 and toluene (4 ml) were placed in a reaction flask and stirred for 1.5 hours at 80° C. The reaction mixture was cooled, washed with water, and dried over anhydrous magnesium sulfate. Then, the solvent was removed under reduced pressure, and the concentrate was purified by column chromatography to give the title compound (0.34 g, 96%) as white crystal.

reactant | 4-trifluoromethane-sulfonyloxyanisole | 1.9 mmol, 0.49 g | FC(S(=O)(=O)OC1=CC=C(C=C1)OC)(F)F | C8H7F3O4S
reactant | phenylboronic acid | 2.4 mmol, 0.29 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium fluoride | 4.2 mmol, 0.24 g | [F-].[K+]
catalyst | 2,2-diphenyl-1-(di-tert-butyl-phosphino)-1-methylcyclopropane | 0.04 mmol, 14.0 mg | C1(=CC=CC=C1)C1(C(C1)(C)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C24H33P
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 4-methoxybiphenyl | 0.34 g, 96% | COC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12O
